US07345056B2
1-[12-(4-Chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2,5-dien-4-yl]-ethanone MS (ES) m/e 380.0 (M+H)
Prepared by acylation of 12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene using acetyl chloride.

reactant | 12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3C=NNC3CC1CCC2 | C15H16ClN3O2S
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 1-[12-(4-Chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2,5-dien-4-yl]-ethanone | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C3=CN(N=C3CC1CCC2)C(C)=O | C17H18ClN3O3S
